US06613786B2
Step 2: Preparation of (5-chlorothiophen-2-yl)-oxo-acetic acid
(5-Chlorothiophen-2-yl)-oxo-acetic acid ethyl ester (8.62 g, 39.4 mmol) was dissolved in a mixture of 100 ml water and 100 ml methanol, then treated with 10 N NaOH (5.9 ml, 59 mmol) at room temperature for 20 hours. The reaction was then poured into 200 ml 3N HCl, and extracted with ethyl acetate (2×100 ml). The combined ethyl acetate extracts were dried over Na2SO4 and concentrated under vacuum to provide Preparation 1b (6.89 g, 92%). The product was then recrystallized from hexane/ether. MS (M−H)−: 189.10; 1H NMR (300 MHz, CDCl3) δ9.07 (1H, br s), 8.32 (1H, d, J=4.2 Hz), 7.10 (1H, d, J=4.2 Hz). IR (KBr) 3270, 3099, 1765, 1744, 1675, 1514, 1411, 1325 cm−1.

reactant | (5-Chlorothiophen-2-yl)-oxo-acetic acid ethyl ester | 39.4 mmol, 8.62 g | C(C)OC(C(=O)C=1SC(=CC1)Cl)=O | C8H7ClO3S
reactant | NaOH | 59 mmol, 10 N, 5.9 ml | [OH-].[Na+]
reactant | HCl | 3N, 200 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (5-chlorothiophen-2-yl)-oxo-acetic acid | ClC1=CC=C(S1)C(C(=O)O)=O | C6H3ClO3S
